US07666968B2
Synthesis of 2,6-dibromo-9,10-bis[(trimethylsilyl)ethynyl]-anthracene
Trimethylsilylacetylene (13.51 g, 137.5 mmol) and dry hexane (300 mL) were charged to an oven-dried round bottom flask (1 L) under dry nitrogen. Butyl lithium (2.7 M in hexane, 46.3 mL, 125.1 mmol) was added dropwise under dry nitrogen through a syringe with water bath cooling. A white precipitate appeared immediately. The mixture was stirred at room temperature for 2 hours. It was then added to a suspension of 2,6-dibromoanthraquinone (18.30 g, 50.0 mmol) in dry THF (600 mL) under dry nitrogen. All of the solids dissolved after the addition and a dark red solution was obtained. A precipitate appeared after about 1 hour. The reaction mixture was stirred at room temperature for 16 hours. DI water (10.0 mL) was added and a white precipitate appeared. Tin (II) chloride (22.8 g, 120 mmol) in HCl (50 mL, 6 M) aqueous solution was then added. The mixture was heated to 70° C. for 2 hours and then cooled to room temperature. The solvent was removed by rotary evaporation. The residue washed with water and then extracted with warm CHCl3 (300 mL). After removal of the CHCl3 solvent, the residue was recrystallized from CHCl3. An orange solid (22.1 g, yield 84%) was obtained as the product. 1H NMR (400 MHz, CDCl3). δ ppm 9.061-9.100 (d, 2H, J=2.4 Hz), 8.757-8.812 (d, 2H, J=9.2 Hz), 8.030-8.091 (dd, 2H, J=9.2 Hz, J=2.0 Hz), 0.851 (s, 18H).

reactant | Trimethylsilylacetylene | 137.5 mmol, 13.51 g | C[Si](C)(C)C#C | C5H10Si
reactant | Butyl lithium | 125.1 mmol, 2.7 M, 46.3 mL | C(CCC)[Li]
reactant | 2,6-dibromoanthraquinone | 50.0 mmol, 18.30 g | BrC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)Br)=O | C14H6Br2O2
reactant | Tin (II) chloride | 120 mmol, 22.8 g | [Sn](Cl)Cl
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | HCl | 6 M, 50 mL | Cl | ClH
solvent | DI water | 10.0 mL | O | H2O
solvent | hexane | 300 mL | CCCCCC | C6H14
product | 2,6-dibromo-9,10-bis[(trimethylsilyl)ethynyl]-anthracene | 22.1 g, yield 84% | BrC1=CC2=C(C3=CC=C(C=C3C(=C2C=C1)C#C[Si](C)(C)C)Br)C#C[Si](C)(C)C | C24H24Br2Si2
